US08183239B2
{4-[4-(2-Ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester
A mixture of 2-ethylbutyric acid (32 μL, 0.22 mmol), polymer-supported carbodiimide (240 mg, 0.29 mmol), and HOBt (33 mg, 0.25 mmol) in DCM (5 mL) was stirred at rt for 15 min. A solution of [4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester (50 mg, 0.15 mmol) in DCM (1 mL) was added and the mixture was stirred for 16 h. Polymer-bound tetraalkylammonium carbonate (PB-carbonate; 250 mg, 0.77 mmol) was added and the mixture was stirred for 2 h. The resins were removed by filtration and the filtrate was concentrated to give an oil, which was purified by PTLC to give a peach solid (37 mg, 57%). MS (ESI): mass calcd. for C25H32FN3O3, 441.54; m/z found, 442.5 [M+H]+. 1H NMR (CDCl3): 7.46-7.44 (m, 3H), 7.36-7.33 (m, 3H), 7.19-7.12 (m, 1H), 7.00 (br s, 1H), 6.87 (t, J=9.0, 1H), 4.06 (s, 1H), 3.70 (s, 3H), 3.09-3.08 (m, 4H), 2.64-2.62 (m, 4H), 2.02-1.95 (m, 1H), 1.70-1.67 (m, 2H), 1.56-1.53 (m, 2H), 0.94 (t, J=7.4, 6H).

reactant | 2-ethylbutyric acid | 0.22 mmol, 32 μL | C(C)C(C(=O)O)CC | C6H12O2
reactant | carbodiimide | 0.29 mmol, 240 mg | N=C=N | CH2N2
reactant | HOBt | 0.25 mmol, 33 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [4-(4-amino-2-fluoro-phenyl)-piperazin-1-yl]-phenyl-acetic acid methyl ester | 0.15 mmol, 50 mg | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)N)F)=O | C19H22FN3O2
reactant | carbonate | C([O-])([O-])=O
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | {4-[4-(2-Ethyl-butyrylamino)-2-fluoro-phenyl]-piperazin-1-yl}-phenyl-acetic acid methyl ester | 37 mg, 57% | COC(C(C1=CC=CC=C1)N1CCN(CC1)C1=C(C=C(C=C1)NC(C(CC)CC)=O)F)=O | C25H32FN3O3
